US07531533B2
Synthesis of methyl 2-[3-(bromomethyl)phenyl]acetate (Intermediate il-01) (Preparation method ia-1)
According to the procedures described in the synthesis method of Intermediate ia-01, 2-[3-(bromomethyl)phenyl]acetic acid (500 mg) synthesized according to the procedures described in International Patent Publication WO00/03980 was used instead of 4-(2-bromoethyl)benzoic acid, and the material was reacted and treated to obtain the title compound (Intermediate il-01, 471 mg).

reactant | 2-[3-(bromomethyl)phenyl]acetic acid | 500 mg | BrCC=1C=C(C=CC1)CC(=O)O | C9H9BrO2
reactant | 4-(2-bromoethyl)benzoic acid | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
product | methyl 2-[3-(bromomethyl)phenyl]acetate | 471 mg | BrCC=1C=C(C=CC1)CC(=O)OC | C10H11BrO2
